US07674815B2
To a solution of 100 mg (0.73 mmol) of 2-hydroxy-5-methyl-benzaldehyde in DMF (1 ml) were added 109 μl (0.92 mmol) of 2-bromo-1,1-dimethoxy-ethane and 112 mg (0.81 mmol) of potassium carbonate. The reaction mixture was heated to reflux for 90 min. Then water was added at RT and the mixture was extracted with ether. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated to yield 2-(2,2-dimethoxy-ethoxy)-5-methyl-benzaldehyde as a yellow oil (154 mg, 93%). 1HNMR (CDCl3, 300 MHz): δ 2.32 (s, 3H), 3.48 (s, 6H), 4.09 (d, J=5.3 Hz, 2H), 4.75 (t, J=5.3 Hz, 1H), 6.89 (d, J=8.4 Hz, 1H), 7.34 (dd, J=8.4 and 2.3 Hz, 1H), 7.64 (d, J=2.3 Hz, 1H), 10.48 (s, 1H).

reactant | 2-hydroxy-5-methyl-benzaldehyde | 0.73 mmol, 100 mg | OC1=C(C=O)C=C(C=C1)C | C8H8O2
reactant | 2-bromo-1,1-dimethoxy-ethane | 0.92 mmol, 109 μl | BrCC(OC)OC | C4H9BrO2
reactant | potassium carbonate | 0.81 mmol, 112 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-(2,2-dimethoxy-ethoxy)-5-methyl-benzaldehyde | 154 mg, 93% | COC(COC1=C(C=O)C=C(C=C1)C)OC | C12H16O4
